US07560558B2
3-Benzyloxy-6-methyl-pyridine-2-carbaldehyde (100 mg) was dissolved in acetonitrile (5 ml) to prepare a solution. Hydroxylamine hydrochloride (72 mg) and triethylamine (0.25 ml) were added to the solution, and the mixture was stirred at room temperature for one hr. 4-Nitrophthalic anhydride was added to the reaction solution, and the mixture was stirred at 100° C. overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using ethyl acetate-hexane to give 3-benzyloxy-6-methylpyridine-2-carbonitrile (53 mg, yield 54%).

reactant | 3-Benzyloxy-6-methyl-pyridine-2-carbaldehyde | 100 mg | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)C)C=O | C14H13NO2
reactant | Hydroxylamine hydrochloride | 72 mg | Cl.NO
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | 4-Nitrophthalic anhydride | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 3-benzyloxy-6-methylpyridine-2-carbonitrile | 53 mg, yield 54% | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)C)C#N | C14H12N2O
